US06531502B1
5-Formyl-4-(2-ethoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (281 mg), 6-(3-methoxy-phenyl)-2-oxindole (287 mg), and piperidine (2 drops) in ethanol (5 mL) were stirred at 90° C. overnight. The precipitate was filtered and washed with ethanol. The yellow orange solid and potassium hydroxide (4 pellets) were stirred in ethanol (3 mL) at 90° C. for 2.5 hours. The reaction mixture was cooled and concentrated. The residue was dissolved into water and acidified with 2 N hydrochloric acid to pH 2. The precipitate was filtered, washed with water, and dried in a vacuum oven overnight to give 413 mg of 4-(2-Carboxyethyl)-5-[6-(3-methoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-3-methyl-1H-pyrrole-2-carboxylic acid.

reactant | 5-Formyl-4-(2-ethoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 281 mg | C(C)OC(=O)C=1NC(=C(C1C)CCC(=O)OCC)C=O | C14H19NO5
reactant | 6-(3-methoxy-phenyl)-2-oxindole | 287 mg | COC=1C=C(C=CC1)C1=CC=C2CC(NC2=C1)=O | C15H13NO2
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-(2-Carboxyethyl)-5-[6-(3-methoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-3-methyl-1H-pyrrole-2-carboxylic acid | 413 mg | C(=O)(O)CCC=1C(=C(NC1C=C1C(NC2=CC(=CC=C12)C1=CC(=CC=C1)OC)=O)C(=O)O)C | C25H22N2O6
